US06248740B1
Production of ethyl 2-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-ethylbutyrate dihydrochloride
3.03 g of 4-(diphenylmethoxy)-1-piperidinepropanamine and 1.38 g of ethyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-ethylbutyrate were stirred at 160° C. for 1.5 hours, then at 180° C. for 2 hours. After the mixture was cooled to 90° C., ethanol and aqueous sodium bicarbonate were added, followed by extraction with ethyl acetate; the extract was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (50:2.5:1). The desired fraction was collected, concentrated under reduced pressure and dissolved in 5 ml of ethyl acetate; 1.4 ml of a 4 N solution of hydrogen chloride in ethyl acetate was added, followed by concentration again. The residue was powdered by the addition of ethyl ether and dried to yield 893 mg of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanamine | 3.03 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCN)C1=CC=CC=C1 | C21H28N2O
reactant | ethyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-ethylbutyrate | 1.38 g | ClC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(CC)CC | C14H18ClN3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-ethylbutyrate dihydrochloride | 893 mg | Cl.Cl.C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(CC)CC)C2=CC=CC=C2 | InChI=1S/C35H45N5O3.2ClH/c1-4-35(5-2,34(41)42-6-3)30-26-40-32(37-30)19-18-31(38-40)36-22-13-23-39-24-20-29(21-25-39)43-33(27-14-9-7-10-15-27)28-16-11-8-12-17-28;;/h7-12,14-19,26,29,33H,4-6,13,20-25H2,1-3H3,(H,36,38);2*1H
